### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/PosDef): Matrix.PosSemidef.det_nonneg

### PR DESCRIPTION
**Pull request by Timeroot**
The determinant of a PSD matrix is nonnegative.

---

Pulled out from #22265 which is otherwise unneeded now.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/PosDef.lean [hunk 1]
```diff
@@ -171,6 +171,11 @@ lemma eigenvalues_nonneg [DecidableEq n] {A : Matrix n n 𝕜}
     (hA : Matrix.PosSemidef A) (i : n) : 0 ≤ hA.1.eigenvalues i :=
   (hA.re_dotProduct_nonneg _).trans_eq (hA.1.eigenvalues_eq _).symm
 
+theorem det_nonneg [DecidableEq n] {M : Matrix n n 𝕜} (hM : M.PosSemidef) :
+    0 ≤ M.det := by
+  rw [hM.isHermitian.det_eq_prod_eigenvalues]
+  exact Finset.prod_nonneg (fun i _ ↦ by simpa using hM.eigenvalues_nonneg i)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/PosDef.lean:177]:
```suggestion
  exact Finset.prod_nonneg fun i _ ↦ by simpa using hM.eigenvalues_nonneg i
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
